Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen
 
Attending: ___.
 
Chief Complaint:
PE  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with COPD on home O2, HTN, recent takotsubo cardiomyopathy 
on anticoag, and recent COPD flare transferred from OSH for 
management of newly dx'd PE, COPD exacerbation and concern for 
post-obstructive pna. Pt was recently hospitalized at ___ 
___ for COPD exacerbation and found to have takotsubo CM on 
TTE and started on lovenox and warfarin. She was readmitted to 
___ with spontaneous rectus sheath and pelvic hematoma on 
systemic anticoagulation and discharged to rehab on ___. She's 
had multiple episodes of COPD exacerbations requiring BIPAP for 
hypoxemia. Of note, during her ___ hospitalization, he 
had L>R ___ evidence of DVT. Also has gross hematuria with 
negative cytology.  
She was admitted to ___ ___ with ___ findings 
concernign for celluitis and started on vancomycin then switched 
to acnef. PICC line placed. Blood cultures NGTD. LENIS negative. 
CT scan of abd showed persistence of pelvic and rectus sheath 
hematoma with lateralizaiton of her bladder ___ hematoma and 
possible ureteral obstruction. Foley cath was discontinued at 
pt's request. Levofloxacin started empirically for presumed pna. 
On ___ pt developed severe hypoeia 70% O2 on NC and was on 100% 
FiO2 NRB to maintain sats>90%. No evidence of wheezing on exam. 
She was started on IV solumedrol for presumed COPD exacerbation. 
CT chest was positive for b/l PE and partial R lower lobe 
colpase w retained secretionsn and LLL consoliddation with air 
bronchograms. Empiric abx for pulmonary source started with 
vancomycin and zosyn.  
Regarding procoagulability, vascular surgery consult 
recommending pelvic venography via CT/MRI for work up of 
possible pelvic vs high iliac source for clot ___ 
syndrome). RUE picc u/s and b/l ___ negative for clot.  
On arrival to the floor, pt feels well. She has abd pain ___ 
hematoma but it is improving slowly. Her respiratory status is 
at baseline and she is comfortable at 4L NC. Denies cough, 
sputum production, chest pain, SOB, BRBPR, dysuria. Has had 
hematuria intermittently since hospitalization for hematoma and 
recurrent since foley dc'd 4 days ago.  
 
REVIEW OF SYSTEMS:  
(+)  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria.  

 
Past Medical History:
- COPD, on 5L NC at home. Continued smoker. Respiratory failure 
@ ___ on CPAP.  
- Smoker  
- MVA in ___ s/p back surgery with rod placement  
- PID, s/p ex lap many years ago  
- Cholelithiasis  
- Hypothyroidism  
- Hypertension  
- Hyperlipidemia  

 
Social History:
___
Family History:
mother - colon cancer, age ___
 
Physical Exam:
ADMITTING EXAM
VS - 98.7 135/74 76 18 79/RA 92/4LNC  
GENERAL - chronically ill appearing woman in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - occasional end expiratory wheeze, no rales/rhonchi, no 
resp distress  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft, large lower abd hematoma tender to 
palpation, firm  
EXTREMITIES - warm, distal pulses intact, 3+ pitting edema to 
knees, L greater than R  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

DISCHARGE EXAM
T 98.0 Tm 99.3  111/59  72  18  97% 2L
GEN awake, alert, oriented woman in NAD  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM good air entry, scattered wheezes bilaterally
CV RRR normal S1/S2, systolic murmur heard at apex 
ABD tenderness to palpation across lower abdominal quadrant b/l, 
mildly distended, soft in lower right and left quadrants, no 
rebound or guarding, normoactive bowel sounds, no palpable 
masses, no evidence of hepatosplenomegaly. No ecchymoses on 
lower left and right quadrants,with no skin breakdown or 
ulceration. Midline incision scar.  
EXT LLE has erythema from ankle to knee encircling calf with 
overlying fine skin blisters, warm, slightly tender, there is 
bilateral pitting edema L greater than R. Right and left side 
improved from yesterday. Active peeling on lower extremities. 
NEURO no focal neurological deficits, motor function grossly 
normal.  
SKIN LLE skin changes as noted above
 

 
Pertinent Results:
ADMISSION LABS

___ 11:20PM   GLUCOSE-86 UREA N-15 CREAT-0.7 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-32 ANION GAP-15
___ 11:20PM   ALT(SGPT)-10 AST(SGOT)-19 ALK PHOS-69 TOT 
BILI-0.3
___ 11:20PM   ALBUMIN-3.6 CALCIUM-9.0 PHOSPHATE-3.3 
MAGNESIUM-2.1
___ 11:20PM   WBC-11.3* RBC-3.57* HGB-11.1* HCT-34.4* 
MCV-97 MCH-31.2 MCHC-32.3 RDW-14.3
___ 11:20PM   PLT COUNT-371

DISCHARGE LABS

___ 07:00AM BLOOD WBC-7.0 RBC-3.27* Hgb-10.5* Hct-32.2* 
MCV-98 MCH-32.0 MCHC-32.5 RDW-14.7 Plt ___
___ 07:00AM BLOOD Glucose-100 UreaN-10 Creat-0.7 Na-141 
K-4.1 Cl-103 HCO3-32 AnGap-10
___ 07:00AM BLOOD ___ PTT-76.9* ___

PERTINENT RESULTS
___ 06:24AM BLOOD ___ PTT-136.7* ___
___ 05:12AM BLOOD ___ PTT-67.2* ___
___ 05:20AM BLOOD ___ PTT-58.7* ___
___ 12:21AM BLOOD ___ PTT-83.8* ___
___ 05:50AM BLOOD ___ PTT-83.0* ___

MICRO
none

IMAGING

 CHEST (PA & LAT) Study Date of ___ 12:11 AM 
 
Final Report 
REASON FOR EXAMINATION:  Evaluation of the patient with COPD and 
acute 
hypoxemia and newly diagnosed pulmonary embolism. 
  
PA and lateral upright chest radiographs were reviewed in 
comparison to 
___. 
  
Right PICC line tip is at the level of the mid SVC.  Heart size 
and 
mediastinum are unremarkable.  Bilateral pleural effusions and 
bibasilar areas of atelectasis changed, moderate.  No 
pneumothorax is seen.  Mild vascular engorgement is present, but 
no overt pulmonary edema is present.  Right ascending aortic 
dilatation is suspected and should be further potentially 
correlated with chest CT to exclude the possibility of ascending 
aortic aneurysm versus other pathology. 
 
Brief Hospital Course:
___ year old female with hx. COPD, HTN, recent anticoagulation 
for takotsobu's cardiomyopathy complicated by spontaneous rectus 
sheath and retroperitoneal hematoma, presenting from OSH after 
suffering bilateral PEs in the setting of treatment for LLE 
cellulitis and postobstructive pneumonia.

# Pulmonary Emboli:  Patient acutely decompensated on ___ ___ngio consistent with bilateral PEs.  Source was unclear as 
bilateral LENIs were negative.  Likely represented provoked PE 
in the setting of infection and prolonged hospitalization.  
Patient was started on a heparin drip with target PTT 60-80.  
Once she was therapeutic, coumadin was started.  The heparin 
drip was discontinued after 24h overlap of being therapeutic on 
coumadin.  Patient is being discharged on a coumadin schedule of 
2 mg ___ and 4 mg ___.  She will have her 
INR followed by her PCP, ___ draw on ___.

# Pneumonia:  Patient transferred from OSH with CT thorax with 
findings concerning for postobstructive pneumonia.  She was 
started on IV Vanc/zosyn empirically on ___.  IV Vanc and 
Zosyn were continued in house for a total of 8 days of therapy.  
She remained afebrile, without a white count, and her 
respiratory status remained stable and she was breathing 
comfortably on 2 liters NC on day of discharge.  She will 
continue to need vancomycin 750 mg Q12H through her PICC for 
cellulitis.

# Rectus sheath and pelvic hematoma: Spontaneously occured 
during systemic anticoagulation for takotsubo (which has since 
resolved on repeat ECHO).  ACS consulted on prior admission in 
___ and recommended trending hematocrit, has been stable on 
all recent imaging.  Her coagulation parameters were closely 
monitored and hematocrits remain stable this admission.  Patient 
was given the warning signs to look out for during the next ___ 
months as she is on anticoagulation including sudden worsening 
abdominal pain and new bruising or bleeding, in which case she 
should call her physician.

# Cellulitis: Prior LENIs negative for DVT.  Likely staph.  Was 
initially on IV Vanc then switched to Ancef.  Placed back on IV 
vanc on ___ and this was continued this hospitalization.  
Patient's redness and swelling was much improved.  She will need 
to complete a 14 day course of vancomycin (last day ___ 
through her ___ line.  

# COPD:  Patient's breathing was at or near baseline during 
admission.  At times she felt somewhat short of breath and 
requested standing nebulizer treatments.  She remains satting 
well on 2L NC and in no distress at the time of this writing.  
Her home medications in addition to nebulizers are being 
continued.

# Hematuria: patient has had hematuria since prior 
hospitalization thought provoked by traumatic foley in the 
setting of anticoagulation.  Prior cytology negative.  Urology 
was consulted and recommended outpatient f/u unless starts 
passing clots.  Her urine remained dark brown throughout 
hospitalization without any evidence of clots.  She continued to 
be incontient despite detrol.  She has an appointment scheduled 
with urology for further management of this problem.
CHRONIC ISSUES
# HTN: continued home metoprolol  
# HL: continued home statin  
# Dilated CBD: Incidentally found on CT imaging for her PE.  
Further workup including possible nonemergent MRCP and ERCP as 
per outpatient physicians once acute cardiopulmonary issues 
resolve.  

TRANSITIONAL ISSUES
Patient is being discharged to rehab to complete her course of 
IV Vanc through her PICC line.  She will need close INR 
monitoring with next blood draw on ___, with results faxed 
to her PCP.  She will likely need a ___ month course of coumadin 
as this appears to be a provoked PE.  She needs further 
management re: chronic health issues including COPD regimen, 
need for home oxygen, as well as dilated CBD as above.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN sob 
2. Atorvastatin 10 mg PO DAILY 
3. Ascorbic Acid ___ mg PO BID 
4. BusPIRone 15 mg PO BID 
5. Clotrimazole Cream 1 Appl TP BID 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Furosemide 20 mg IV BID 
10. Fluoxetine 20 mg PO DAILY 
11. Gabapentin 600 mg PO TID 
12. Heparin IV per Weight-Based Dosing Guidelines

13. Levothyroxine Sodium 75 mcg PO DAILY 
14. Metoprolol Tartrate 12.5 mg PO BID 
15. MethylPREDNISolone Sodium Succ 40 mg IV Q 12H 
16. OxycoDONE-Acetaminophen Elixir 5 mL PO Q4H:PRN pain 
17. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
Hold for K > 
18. Pantoprazole 40 mg PO Q12H 
19. Piperacillin-Tazobactam 3.375 g IV Q6H 
20. Senna 2 TAB PO HS 
21. Tolterodine 2 mg PO BID 
22. Vancomycin 1000 mg IV Q 12H 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN sob 
2. Ascorbic Acid ___ mg PO BID 
3. Atorvastatin 10 mg PO DAILY 
4. BusPIRone 15 mg PO BID 
5. Clotrimazole Cream 1 Appl TP BID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Fluoxetine 20 mg PO DAILY 
8. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
9. Levothyroxine Sodium 75 mcg PO DAILY 
10. Metoprolol Tartrate 12.5 mg PO BID 
11. Pantoprazole 40 mg PO Q12H 
12. Tolterodine 2 mg PO BID 
13. Vancomycin 750 mg IV Q 12H 
14. Furosemide 40 mg PO DAILY 
15. Ipratropium Bromide Neb 1 NEB IH Q6H 
16. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
17. Warfarin 2 mg PO 2X/WEEK (___) 
please give on ___ and ___ 
18. Warfarin 4 mg PO 5X/WEEK (___) 
19. Nicotine Patch 21 mg TD DAILY 
20. Docusate Sodium 100 mg PO BID 
21. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
epigastric discomfort 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Pulmonary emboli
         Cellulitis
         HCAP

Secondary: Retroperitoneal hematoma
           Hematuria
           COPD
           

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure to take care of you at ___.  You were 
admitted because you developed clots in your lungs while being 
treated for a cellulitis and pneumonia.  You were giving blood 
thinning medications (heparin and then coumadin) as well as 
antibiotics.  You tolerated the therapy well and are being 
discharged on coumadin.  You will need to complete a course of 
antibiotics through your ___ line.

Please make the following changes to your medications:

Please START coumadin 2 mg on ___ and ___ and 4 mg on 
___, and ___.  

Please START Vancomycin 750 mg twice a day through your PICC 
line.  You will need to take this through ___.

You will need to have blood work done to check your INR (for 
coumadin monitoring) on ___.  The results will be faxed to 
your primary care physician who will help you with any dose 
adjustments that need to be made.  Please keep the follow-up 
appointments below.
 
Followup Instructions:
___